US08389527B2
A ˜1:1 mixture 6,8-dichloroimidazo[1,2-b]pyridazine-3-carboxylic acid and 8-bromo-6-chloroimidazo[1,2-b]pyridazine-3-carboxylic acid (6.57 g, 28.3) was suspended in DCE (140 mL), and treated with neat oxalyl chloride (5.52 g, 42.5 mmol) followed by N,N-dimethylformamide (0.207 g, 2.83 mmol). The reaction mixture was heated at 65° C. for 5 hours, concentrated and dried under high vacuum for 1 hr and taken into the next step without further purification. The crude mixture of acid chloride was suspended in DCE (100 mL) and treated with 2-chloropyridin-4-amine (4.37 g, 34.0 mmol) and N,N-diisopropylethylamine (5.49 g, 42.5 mmol) and stirred at room temperature for 2 hours. The reaction mixture was filtered through a Buchner funnel, and washed with DCE (2×25 mL) to isolate a 1:1 mixture of 6,8-dichloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide and 8-bromo-6-chloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide (7.7 g, 22.5 mmol, 79% yield) as a light brown solid. LC/MS (Phenomenex Luna 5 micron C18 4.6×30 mm, 0 to 100 B in 2 min with 1 min hold time, Flow rate=5 mL/min, detection at 254 nm, Solvent A: 10% methanol/90% water/0.1% TFA; Solvent B: 10% water/90% methanol/0.1% TFA) Rt=1.51 minutes. [M+H[=343.84, and [M+H[=387.8.

reactant | 6,8-dichloroimidazo[1,2-b]pyridazine-3-carboxylic acid | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)O)Cl | C7H3Cl2N3O2
reactant | 8-bromo-6-chloroimidazo[1,2-b]pyridazine-3-carboxylic acid | 6.57 g | BrC=1C=2N(N=C(C1)Cl)C(=CN2)C(=O)O | C7H3BrClN3O2
reactant | oxalyl chloride | 42.5 mmol, 5.52 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 2.83 mmol, 0.207 g | CN(C=O)C | C3H7NO
reactant | 2-chloropyridin-4-amine | 34.0 mmol, 4.37 g | ClC1=NC=CC(=C1)N | C5H5ClN2
reactant | N,N-diisopropylethylamine | 42.5 mmol, 5.49 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 6,8-dichloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | ClC=1C=C(C=2N(N1)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl)Cl | C12H6Cl3N5O
solvent | DCE | 140 mL | ClCCCl | C2H4Cl2
product | 8-bromo-6-chloro-N-(2-chloropyridin-4-yl)imidazo[1,2-b]pyridazine-3-carboxamide | 22.5 mmol, 7.7 g, 79% yield | BrC=1C=2N(N=C(C1)Cl)C(=CN2)C(=O)NC2=CC(=NC=C2)Cl | C12H6BrCl2N5O
